US07981874B2
4-(1-Methyl-4-oxido-1,4-azaphosphinan-4-yl)phenol.
4-(4-Methoxyphenyl)-1-methyl-1,4-azaphosphinane 4-oxide (1.05 g, 4.39 mmol) was made 0.16 M in DCM and stirred at −78° C. To this stirring solution was added BBr3 (2.09 g, 8.34 mmol) dropwise. The reaction mixture was slowly warmed to ambient temperature over 16 h. The precipitate was filtered off then dissolved in water. The pH was adjusted to pH=7 with 2N aq HCl. A precipitate was filtered off and the filtrate was concentrated in vacuo. The residue was suspended in 4:1 DCM:MeOH and stirred for 20 mins. The solids were filtered off and the filtrate was concentrated in vacuo to afford the requisite product. MS: cal'd 226 (MH+), exp 226 (MH+)

reactant | 4-(4-Methoxyphenyl)-1-methyl-1,4-azaphosphinane 4-oxide | 4.39 mmol, 1.05 g | COC1=CC=C(C=C1)P1(CCN(CC1)C)=O | C12H18NO2P
reactant | BBr3 | 8.34 mmol, 2.09 g | B(Br)(Br)Br | BBr3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(1-Methyl-4-oxido-1,4-azaphosphinan-4-yl)phenol | CN1CCP(CC1)(=O)C1=CC=C(C=C1)O | C11H16NO2P
